US07915267B2
3-(3-{[5-(trifluoromethyl)-1H-1,2,4-triazol-3-yl]thio}propoxy)benzonitrile
By a method similar to that in Reference Example 2, and using, instead of 3-[(2-chloroethyl)oxy]benzonitrile, 3-[(3-chloropropyl)oxy]benzonitrile obtained in Reference Example 4 and using, instead of 1H-1,2,4-triazole-3-thiol, 5-(trifluoromethyl)-1H-1,2,4-triazole-3-thiol, the title compound was obtained as a yellow oil (1.25 g, 64%).

reactant | 3-[(2-chloroethyl)oxy]benzonitrile | ClCCOC=1C=C(C#N)C=CC1 | C9H8ClNO
reactant | 3-[(3-chloropropyl)oxy]benzonitrile | ClCCCOC=1C=C(C#N)C=CC1 | C10H10ClNO
reactant | 1H-1,2,4-triazole-3-thiol | N1N=C(N=C1)S | C2H3N3S
reactant | 5-(trifluoromethyl)-1H-1,2,4-triazole-3-thiol | FC(C1=NC(=NN1)S)(F)F | C3H2F3N3S
product | 3-(3-{[5-(trifluoromethyl)-1H-1,2,4-triazol-3-yl]thio}propoxy)benzonitrile | FC(C1=NC(=NN1)SCCCOC=1C=C(C#N)C=CC1)(F)F | C13H11F3N4OS
